US05510366
(3) 4-Allyloxy-1-benzyl-2,3-dihydro-7-methyl-1H-indol-2,3-dione
149.98 g (0.386 mol) of N-benzyl-5'-benzyloxy-2'-methylmethyloxalanilide was dissolve in 900 ml of 90% ethanol aqueous solution. After the addition of 44.0 g (0.786 mol) of potassium hydroxide, the mixture was stirred for 2 hours at 50° C. The reaction mixture was concentrated under reduced pressure, and to the residue were slowly added 400 ml of trifluoroacetic acid and then 400 ml of trifluoroacetic anhydride under cooling with ice. The temperature was raised to 50° C and the mixture was stirred for 1 hour, and for a further 35 hours at 60° C. The reaction mixture was concentrated under reduced pressure and the residue was extracted with chloroform. The organic layer was partitioned by 1N aqueous solution of sodium hydroxide. Hydrochloric acid was added to the basic water layer to adjust pH to about 4, and this layer was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate. The residue obtained by evaporating the solvent under reduced pressure was dissolved in 200 ml of N,N-dimethylformamide, and 100 g (0.725 mol) of potassium carbonate and 50.0 g (0.298 mol) of allyl iodide were added to the solution, followed by stirring for 90 minutes at 60° C. The reaction mixture was concentrated under reduced pressure and the residue was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate. The residue obtained by evaporating the solvent under reduced pressure was recrystallized from benzene to obtain reddish brown crude crystals. The crystals were recrystallized from ethyl acetate-ether-n-hexane to obtain 17.3 g (three steps, 14.2%) of a reddish brown powder of the title compound.

reactant | N-benzyl-5'-benzyloxy-2'-methylmethyloxalanilide | 0.386 mol, 149.98 g | C(C1=CC=CC=C1)N(C1=C(C(=CC(=C1)OCC1=CC=CC=C1)C)C)C(C(=O)NC1=CC=CC=C1)=O | C30H28N2O3
reactant | potassium hydroxide | 0.786 mol, 44.0 g | [OH-].[K+]
reactant | potassium carbonate | 0.725 mol, 100 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl iodide | 0.298 mol, 50.0 g | C(C=C)I | C3H5I
solvent | ethanol | 900 ml | C(C)O | C2H6O
product | 4-Allyloxy-1-benzyl-2,3-dihydro-7-methyl-1H-indol-2,3-dione | C(C=C)OC1=C2C(C(N(C2=C(C=C1)C)CC1=CC=CC=C1)=O)=O | C19H17NO3
